US07825103B2
tert-Butyldiisobutylsilane (36a)
Diisobutylchlorosilane (18.0 mL, 100 mmol) was dissolved in THF (100 mL), and tert-butyl magnesium chloride THF solution (10M, 100 mL) was added dropwise thereto under nitrogen for 30 minutes. Cuprous bromide (286 mg, 2.00 mmol) was added to the resultant mixture, followed by stirring at 70° C. for 8 hours. The reaction mixture was left to cool, and saturated aqueous ammonium chloride and n-pentane were added thereto. The formed organic layer was washed three times with water and once with saturated brine, and the thus-washed layer was dried over sodium sulfate anhydrate. The solvent was removed, followed by purification through distillation under reduced pressure, whereby the Compound 36a was obtained as a colorless liquid (boiling point; 27 mmHg, 100° C. fraction, 13.6 g, 68%).

reactant | Diisobutylchlorosilane | 100 mmol, 18.0 mL | C(C(C)C)[SiH](Cl)CC(C)C | C8H19ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | n-pentane | CCCCC | C5H12
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-Butyldiisobutylsilane | C(C)(C)(C)[SiH](CC(C)C)CC(C)C | C12H28Si
